US08455638B2
Step A. Ethyl 1-(2-chloropyrimidin-4-yl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate
To a solution 2-chloro-6-hydrazinopyrimidine (1.00 g, 6.92 mmol) and triethylamine (0.964 mL, 6.92 mmol) in acetonitrile (35 mL) was added ethyl 2-(ethoxymethylene)-4,4,4-trifluoro-3-oxobutyrate (1.35 mL, 6.97 mmol). After 45 min, the reaction mixture was placed in a 90° C. oil bath. After 1 h, the reaction mixture was allowed to cool to ambient temperature, then was concentrated in vacuo. Purification by flash chromatography on silica gel (0 to 60% EtOAc in hexanes, then 60 to 100% EtOAc in hexanes) provided the title compound: LCMS m/z 321.0 [M+H]+; 1H NMR (500 MHz, CDCl3) δ 8.80 (d, J=5.5 Hz, 1H), 8.12 (s, 1H), 7.76 (d, J=5.5 Hz, 1H), 4.39 (q, J=7.0 Hz, 2H), 1.39 (t, J=7.0 Hz, 3H).

reactant | 2-chloro-6-hydrazinopyrimidine | 6.92 mmol, 1.00 g | ClC1=NC(=CC=N1)NN | C4H5ClN4
reactant | triethylamine | 6.92 mmol, 0.964 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-(ethoxymethylene)-4,4,4-trifluoro-3-oxobutyrate | 6.97 mmol, 1.35 mL | C(C)OC=C(C(=O)OCC)C(C(F)(F)F)=O | C9H11F3O4
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
product | Ethyl 1-(2-chloropyrimidin-4-yl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate | ClC1=NC=CC(=N1)N1N=CC(=C1C(F)(F)F)C(=O)OCC | C11H8ClF3N4O2
